US07351719B2
122c) N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl -phenoxy)-propionamide-hydrochloride
0.342 mL (2.000 mmol) of ethyl-diisopropylamine was added to a solution of 0.364 g (1.500 mmol) of 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine (intermediate product Z1b), 0.403 g (1.500 mmol) of 2-(2-chloro-4-trifluoromethyl-phenoxy)-propionic acid and 0.562 g (1.750 mmol) of TBTU in 10 mL abs. THF and the mixture was stirred for 1 hour at RT. The reaction mixture was evaporated down i. vac. and the residue combined with dichloromethane and water. The org. phase was separated off, washed with sat. aqueous sodium bicarbonate solution and water and evaporated down i. vac. The residue was purified by column chromatography (silica gel, gradient dichloromethane/10% conc. aqueous ammonia in MeOH 100:0→5:95).

reactant | ethyl-diisopropylamine | 2.000 mmol, 0.342 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine | 1.500 mmol, 0.364 g | ClC=1C=C(C=CC1OCCN(CC)CC)N | C12H19ClN2O
reactant | 2-(2-chloro-4-trifluoromethyl-phenoxy)-propionic acid | 1.500 mmol, 0.403 g | ClC1=C(OC(C(=O)O)C)C=CC(=C1)C(F)(F)F | C10H8ClF3O3
reactant | TBTU | 1.750 mmol, 0.562 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | THF | C1CCOC1 | C4H8O
product | N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl -phenoxy)-propionamide-hydrochloride | Cl.ClC=1C=C(C=CC1OCCN(CC)CC)NC(C(C)OC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | InChI=1S/C22H25Cl2F3N2O3.ClH/c1-4-29(5-2)10-11-31-19-9-7-16(13-18(19)24)28-21(30)14(3)32-20-8-6-15(12-17(20)23)22(25,26)27;/h6-9,12-14H,4-5,10-11H2,1-3H3,(H,28,30);1H
